.title SRAM and Sense Amplifier Simulation
*****************************
**     Library setting     **
*****************************
.protect
.include '7nm_TT.pm'
.unprotect 
.include '6to64_row_decoder.sp'
.include 'SRAM_array_64x32.sp'

*****************************
**   Circuit Description   **
*****************************
* 呼叫 Row Decoder (注意：引腳順序必須跟上面定義的完全一模一樣)
xdecoder A6 A5 A4 A3 A2 A1
+ WL0 WL1 WL2 WL3 WL4 WL5 WL6 WL7 WL8 WL9 WL10 WL11 WL12 WL13 WL14 WL15
+ WL16 WL17 WL18 WL19 WL20 WL21 WL22 WL23 WL24 WL25 WL26 WL27 WL28 WL29 WL30 WL31
+ WL32 WL33 WL34 WL35 WL36 WL37 WL38 WL39 WL40 WL41 WL42 WL43 WL44 WL45 WL46 WL47
+ WL48 WL49 WL50 WL51 WL52 WL53 WL54 WL55 WL56 WL57 WL58 WL59 WL60 WL61 WL62 WL63
+ ROW_DEC_6to64

XARRAY_TOP PRE SAEN VDD GND 
+ WL0 WL1 WL2 WL3 WL4 WL5 WL6 WL7 WL8 WL9 WL10 WL11 WL12 WL13 WL14 WL15
+ WL16 WL17 WL18 WL19 WL20 WL21 WL22 WL23 WL24 WL25 WL26 WL27 WL28 WL29 WL30 WL31
+ WL32 WL33 WL34 WL35 WL36 WL37 WL38 WL39 WL40 WL41 WL42 WL43 WL44 WL45 WL46 WL47
+ WL48 WL49 WL50 WL51 WL52 WL53 WL54 WL55 WL56 WL57 WL58 WL59 WL60 WL61 WL62 WL63
+ SENSE_OUT0  SENSE_OUTB0  WEN_BL0  WEN_BLB0
+ SENSE_OUT1  SENSE_OUTB1  WEN_BL1  WEN_BLB1
+ SENSE_OUT2  SENSE_OUTB2  WEN_BL2  WEN_BLB2
+ SENSE_OUT3  SENSE_OUTB3  WEN_BL3  WEN_BLB3
+ SENSE_OUT4  SENSE_OUTB4  WEN_BL4  WEN_BLB4
+ SENSE_OUT5  SENSE_OUTB5  WEN_BL5  WEN_BLB5
+ SENSE_OUT6  SENSE_OUTB6  WEN_BL6  WEN_BLB6
+ SENSE_OUT7  SENSE_OUTB7  WEN_BL7  WEN_BLB7
+ SENSE_OUT8  SENSE_OUTB8  WEN_BL8  WEN_BLB8
+ SENSE_OUT9  SENSE_OUTB9  WEN_BL9  WEN_BLB9
+ SENSE_OUT10 SENSE_OUTB10 WEN_BL10 WEN_BLB10
+ SENSE_OUT11 SENSE_OUTB11 WEN_BL11 WEN_BLB11
+ SENSE_OUT12 SENSE_OUTB12 WEN_BL12 WEN_BLB12
+ SENSE_OUT13 SENSE_OUTB13 WEN_BL13 WEN_BLB13
+ SENSE_OUT14 SENSE_OUTB14 WEN_BL14 WEN_BLB14
+ SENSE_OUT15 SENSE_OUTB15 WEN_BL15 WEN_BLB15
+ SENSE_OUT16 SENSE_OUTB16 WEN_BL16 WEN_BLB16
+ SENSE_OUT17 SENSE_OUTB17 WEN_BL17 WEN_BLB17
+ SENSE_OUT18 SENSE_OUTB18 WEN_BL18 WEN_BLB18
+ SENSE_OUT19 SENSE_OUTB19 WEN_BL19 WEN_BLB19
+ SENSE_OUT20 SENSE_OUTB20 WEN_BL20 WEN_BLB20
+ SENSE_OUT21 SENSE_OUTB21 WEN_BL21 WEN_BLB21
+ SENSE_OUT22 SENSE_OUTB22 WEN_BL22 WEN_BLB22
+ SENSE_OUT23 SENSE_OUTB23 WEN_BL23 WEN_BLB23
+ SENSE_OUT24 SENSE_OUTB24 WEN_BL24 WEN_BLB24
+ SENSE_OUT25 SENSE_OUTB25 WEN_BL25 WEN_BLB25
+ SENSE_OUT26 SENSE_OUTB26 WEN_BL26 WEN_BLB26
+ SENSE_OUT27 SENSE_OUTB27 WEN_BL27 WEN_BLB27
+ SENSE_OUT28 SENSE_OUTB28 WEN_BL28 WEN_BLB28
+ SENSE_OUT29 SENSE_OUTB29 WEN_BL29 WEN_BLB29
+ SENSE_OUT30 SENSE_OUTB30 WEN_BL30 WEN_BLB30
+ SENSE_OUT31 SENSE_OUTB31 WEN_BL31 WEN_BLB31
+ SRAM_Array_64x32


*****************************
**     Voltage Source      **
*****************************
* Do not modify below *
.global VDD GND
.param  BITCAP = 10f

VVDD VDD GND 0.7v

*CBLB BLB GND BITCAP
*CBL  BL  GND BITCAP


*Read model voltage supply
*Vw WL   GND PULSE  ( 0V  0.7V     4ns  0.05ns  0.05ns  0.2ns   1ns )
*Vp PRE  GND PULSE  ( 0V  0.7V     4ns  0.05ns  0.05ns  0.35ns  1ns )
*Vs SAEN GND PULSE  ( 0V  0.7V  4.25ns  0.05ns  0.05ns  0.1ns   1ns )

*write model voltage supply
VA1 A1 GND 0V
VA2 A2 GND 0V
VA3 A3 GND 0V
VA4 A4 GND 0V
VA5 A5 GND 0V
VA6 A6 GND 0V

Vp PRE  GND PULSE  ( 0V  0.7V     4ns  0.05ns  0.05ns  0.35ns  1ns )
Vs SAEN GND 0V

Vwen_blb0 WEN_BLB0 GND PULSE  ( 0V  0.7V  4ns  0.05ns  0.05ns  0.3ns   1ns )
Vwen_bl0  WEN_BL0  GND 0V

Vwen_blb1 WEN_BLB1 GND 0V
Vwen_bl1  WEN_BL1  GND 0V
Vwen_blb2 WEN_BLB2 GND 0V
Vwen_bl2  WEN_BL2  GND 0V
Vwen_blb3 WEN_BLB3 GND 0V
Vwen_bl3  WEN_BL3  GND 0V
Vwen_blb4 WEN_BLB4 GND 0V
Vwen_bl4  WEN_BL4  GND 0V
Vwen_blb5 WEN_BLB5 GND 0V
Vwen_bl5  WEN_BL5  GND 0V
Vwen_blb6 WEN_BLB6 GND 0V
Vwen_bl6  WEN_BL6  GND 0V
Vwen_blb7 WEN_BLB7 GND 0V
Vwen_bl7  WEN_BL7  GND 0V
Vwen_blb8 WEN_BLB8 GND 0V
Vwen_bl8  WEN_BL8  GND 0V
Vwen_blb9 WEN_BLB9 GND 0V
Vwen_bl9  WEN_BL9  GND 0V
Vwen_blb10 WEN_BLB10 GND 0V
Vwen_bl10  WEN_BL10  GND 0V
Vwen_blb11 WEN_BLB11 GND 0V
Vwen_bl11  WEN_BL11  GND 0V
Vwen_blb12 WEN_BLB12 GND 0V
Vwen_bl12  WEN_BL12  GND 0V
Vwen_blb13 WEN_BLB13 GND 0V
Vwen_bl13  WEN_BL13  GND 0V
Vwen_blb14 WEN_BLB14 GND 0V
Vwen_bl14  WEN_BL14  GND 0V
Vwen_blb15 WEN_BLB15 GND 0V
Vwen_bl15  WEN_BL15  GND 0V
Vwen_blb16 WEN_BLB16 GND 0V
Vwen_bl16  WEN_BL16  GND 0V
Vwen_blb17 WEN_BLB17 GND 0V
Vwen_bl17  WEN_BL17  GND 0V
Vwen_blb18 WEN_BLB18 GND 0V
Vwen_bl18  WEN_BL18  GND 0V
Vwen_blb19 WEN_BLB19 GND 0V
Vwen_bl19  WEN_BL19  GND 0V
Vwen_blb20 WEN_BLB20 GND 0V
Vwen_bl20  WEN_BL20  GND 0V
Vwen_blb21 WEN_BLB21 GND 0V
Vwen_bl21  WEN_BL21  GND 0V
Vwen_blb22 WEN_BLB22 GND 0V
Vwen_bl22  WEN_BL22  GND 0V
Vwen_blb23 WEN_BLB23 GND 0V
Vwen_bl23  WEN_BL23  GND 0V
Vwen_blb24 WEN_BLB24 GND 0V
Vwen_bl24  WEN_BL24  GND 0V
Vwen_blb25 WEN_BLB25 GND 0V
Vwen_bl25  WEN_BL25  GND 0V
Vwen_blb26 WEN_BLB26 GND 0V
Vwen_bl26  WEN_BL26  GND 0V
Vwen_blb27 WEN_BLB27 GND 0V
Vwen_bl27  WEN_BL27  GND 0V
Vwen_blb28 WEN_BLB28 GND 0V
Vwen_bl28  WEN_BL28  GND 0V
Vwen_blb29 WEN_BLB29 GND 0V
Vwen_bl29  WEN_BL29  GND 0V
Vwen_blb30 WEN_BLB30 GND 0V
Vwen_bl30  WEN_BL30  GND 0V
Vwen_blb31 WEN_BLB31 GND 0V
Vwen_bl31  WEN_BL31  GND 0V

* Do not modify above *

*****************************
**    Initial Conditions   **
*****************************
* Do not modify the initial conditions for BL and BLB, which are both 0V.
* We assume there is no initial voltage on the bitlines before precharge.
.ic v(XARRAY_TOP.xCOL0.BL0)  = 0v
.ic v(XARRAY_TOP.xCOL0.BLB0) = 0v
.ic v(XARRAY_TOP.xCOL1.BL0)  = 0v
.ic v(XARRAY_TOP.xCOL1.BLB0) = 0v


* You should set the initial conditions for q and qb in the SRAM.
* q should be 0V and qb should be 0.7V, which means the SRAM cell is storing "0".
.ic v(XARRAY_TOP.xCOL0.q0) = 0v
.ic v(XARRAY_TOP.xCOL0.qb0) = 0.7v
.ic v(XARRAY_TOP.xCOL1.q0) = 0v
.ic v(XARRAY_TOP.xCOL1.qb0) = 0.7v

*****************************
**    Simulator setting    **
*****************************
.op
.option post 
.options probe
.probe v(*) i(*)

* Do Not Modify !!!
.tran 0.05ns 5ns 

*read model
*.measure tp
*+ TRIG v(SAEN) VAL='0.35' rise=1
*+ TARG v(sense) VAL='0.35' fall=1

*write model
.measure tp_write
+ TRIG v(WL0) VAL='0.35' rise=1
+ TARG v(XARRAY_TOP.xCOL0.q0) VAL='0.35' rise=1

.probe tran v(XARRAY_TOP.xCOL0.q0) v(XARRAY_TOP.xCOL0.qb0) v(XARRAY_TOP.xCOL0.BL) v(XARRAY_TOP.xCOL0.BLB)
.probe tran v(XARRAY_TOP.xCOL1.q0) v(XARRAY_TOP.xCOL1.qb0)
.measure TRAN Avg_read_pwr avg POWER from=4n to=5n

.end

